US08008296B2
For example, (4-fluoro-phenyl)-(2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone (where Y═F) is treated with a suitable nucleophile, in this case, 2-pyrrolidin-1-yl-ethylamine in a suitable solvent such as DMSO and 33% KF/Al2O3 and the reaction is heated for 1-3 days to yield [4-(2-pyrrolidin-1-yl-ethylamino)-phenyl]-(2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone.

reactant | (4-fluoro-phenyl)-(2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | FC1=CC=C(C=C1)C(=O)N1C(CCC1)CN1CCCC1 | C16H21FN2O
reactant | 2-pyrrolidin-1-yl-ethylamine | N1(CCCC1)CCN | C6H14N2
solvent | DMSO | CS(=O)C | C2H6OS
product | [4-(2-pyrrolidin-1-yl-ethylamino)-phenyl]-(2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | N1(CCCC1)CCNC1=CC=C(C=C1)C(=O)N1C(CCC1)CN1CCCC1 | C22H34N4O
